US05859020
5.4 g (0.03 mol) of 2-(4-tert-butylphenyl)ethanol were added dropwise at 50° C. to a suspension of 1.2 g (0.03 mol) of sodium hydride (60% dispersion in oil) in 50 ml of dry dimethylformamide, and the mixture was stirred until the evolution of hydrogen had ceased. The mixture was cooled to 0° C., and 4.7 g (0.025 mol) of 4-chloro-5-methoxy-6-methoxymethylpyrimidine (Coll. Czechoslov. Chem. Commun. 33, 2266 (1968)) were added. The mixture was stirred for 1 hour at room temperature and for 2 hours at 100° C. After the solvent had been stripped off, the residue was taken up in dichloromethane/water, and the organic phase was dried and evaporated on a rotary evaporator. The crude product was chromatographed on silica gel using ethyl acetate. 3.8 g (46% of theory) of 4-[2-(4-tert-butylphenyl)ethoxy]-5 -methoxy-6 -methoxymethylpyrimidine were obtained in the form of a yellow oil.

reactant | 2-(4-tert-butylphenyl)ethanol | 0.03 mol, 5.4 g | C(C)(C)(C)C1=CC=C(C=C1)CCO | C12H18O
reactant | sodium hydride | 0.03 mol, 1.2 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-chloro-5-methoxy-6-methoxymethylpyrimidine | 0.025 mol, 4.7 g | ClC1=NC=NC(=C1OC)COC | C7H9ClN2O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane water | ClCCl.O
product | 4-[2-(4-tert-butylphenyl)ethoxy]-5 -methoxy-6 -methoxymethylpyrimidine | 3.8 g, 46% | C(C)(C)(C)C1=CC=C(C=C1)CCOC1=NC=NC(=C1OC)COC | C19H26N2O3
